US05442064
1-(Carboxymethyl)-4-(4-cyanophenyl)-piperazine
To 3 g of 1-(4-cyanophenyl)-4-(methoxycarbonylmethyl)-piperazine in 46 ml of tetrahydrofuran 58 ml of a 1 molar aqueous lithium hydroxide solution are added, at ambient temperature and with stirring, and the reaction solution is left to stand for 3 hours at ambient temperature. Then 3.2 g of ammonium chloride are added and the tetrahydrofuran is distilled off under reduced pressure. The precipitate is suction filtered, washed with water and dried. Yield: 2.2 g (77% of theory), Melting point: over 300° C. Rf value: 0.18 (silica gel; methylene chloride/methanol=9:1)

reactant | 1-(4-cyanophenyl)-4-(methoxycarbonylmethyl)-piperazine | 3 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)CC(=O)OC | C14H17N3O2
reactant | lithium hydroxide | 1 molar | [OH-].[Li+]
reactant | ammonium chloride | 3.2 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
product | 1-(Carboxymethyl)-4-(4-cyanophenyl)-piperazine | C(=O)(O)CN1CCN(CC1)C1=CC=C(C=C1)C#N | C13H15N3O2
